US09126937B2
N-(6-((tert-butyldimethylsilyl)oxy)hexyl)cyclohexanamine:
In a sealed tube was charged with ((6-bromohexyl)oxy)(tert-butyl)dimethylsilane (2.35 mL, 8.45 mmol), cyclohexanamine (1.95 mL, 16.9 mmol), potassium carbonate (2.34 g, 16.9 mmol), and acetonirile (6 mL). The mixture was stirred at 80° C. for 2.5 days and filtered through a pad of celite. The solution was concentrated and purified on silica gel with a eluent of Methanol (2N NH3):methylene chloride from 0:1 to 5:95 to give a clear oil (2.4 g, 90%). 1H NMR (300 MHz, CDCl3): δ 3.55 (t, J=6.4 Hz, 2H), 2.56 (t, J=7.0 Hz, 2H), 2.42-2.28 (m, 1H), 1.89-1.78 (m, 2H), 1.74-1.62 (m, 2H), 1.62-1.52 (m, 2H), 1.52-1.36 (m, 4H), 1.36-1.22 (m, 5H), 1.22-0.92 (m, 5H), 0.85 (s, 9H), 0.05 (s, 6H).

reactant | ((6-bromohexyl)oxy)(tert-butyl)dimethylsilane | 8.45 mmol, 2.35 mL | BrCCCCCCO[Si](C)(C)C(C)(C)C | C12H27BrOSi
reactant | cyclohexanamine | 16.9 mmol, 1.95 mL | C1(CCCCC1)N | C6H13N
reactant | potassium carbonate | 16.9 mmol, 2.34 g | C([O-])([O-])=O.[K+].[K+]
product | N-(6-((tert-butyldimethylsilyl)oxy)hexyl)cyclohexanamine | 2.4 g, 90% | [Si](C)(C)(C(C)(C)C)OCCCCCCNC1CCCCC1 | C18H39NOSi
